US05843957
Preparation of N-[1-butyl-4-[3-{2-(N-benzyl-N-ethylamino)ethoxy}-phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (200 mg, 0.39 mmol) in DMSO (8 ml) were added 2-(N-benzyl-N-ethylamino)ethyl chloride hydrochloride (182 mg, 0.78 mmol) and potassium t-butoxide (132 mg, 1.17 mmol), and the mixture was stirred at room temperature for five hours. The mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the title compound (218 mg, 0.32 mmol).

reactant | N-[1-butyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.39 mmol, 200 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C31H36N4O3
reactant | 2-(N-benzyl-N-ethylamino)ethyl chloride hydrochloride | 0.78 mmol, 182 mg | Cl.C(C1=CC=CC=C1)N(CC)CCCl
reactant | potassium t-butoxide | 1.17 mmol, 132 mg | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | N-[1-butyl-4-[3-{2-(N-benzyl-N-ethylamino)ethoxy}-phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.32 mmol, 218 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCN(CC)CC1=CC=CC=C1)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C42H51N5O3
